Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"Hearing voices"
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
"Mr. ___ is a ___ man with no past psychiatric 
history, brought in to the ED by his mother for command auditory 
hallucinations concerning for suicidal intention with plan to 
hang himself. 
.
Patient states that he began hearing voices in ___, 2 
hours after his single suicide attempt by intentional overdose 
on 20 pills of Advil ___ following a phone conversation after a 
break-up. He described becoming pale and sweaty, with a dry 
mouth and stomachache; he self-presented to an ED in ___ and was 
discharged without medical or psychiatric admission. Patient 
feels this event "triggered" his voices as he feels he was 
"supposed to die." He feels that because he "came close to 
death" he is now "attuned to another reality." 
.
Patient describes hearing the thoughts of others, who seem to be 
universally negative and say "mean stuff" to him. He denies 
overt command auditory hallucinations, but states that he feels 
bullied into doing things, like brushing his teeth even though 
that was "not my plan." He had one episode last week when he 
heard a thought saying "if you smoke weed again, you'll end up 
with a noose around your neck." Patient thought that was 
interesting
since he previously had seen a "noose" in his grandmother's 
basement. He has also had a "vision" about becoming a forensic 
patient, and states that he has known from the age of ___ that he 
will die at his own hand. 
.
Patient has stopped smoking marijuana for the past 3 days 
because it makes the "voices too loud." Patient states he has 
been trying to "form a bubble around myself" to protect himself 
from "feeling the energy of other people." 
.
Patient states that he has been depressed, socially withdrawn 
("not talking"), sleeping 3 hours per night (normal ___, and 
forcing himself to eat for the past week. The month prior to 
this he describes himself as ___, Defender of the World" and 
was "powerful" and "could do anything." This changed after 
smoking "too much weed" and having a panic attack (sweating, 
shaking, couldn't move). He also used psychedelic mushrooms for 
the first time last week. 
.
Regarding homicidal ideation, patient states he has intent to 
harm 2 individuals; 1 the man who mugged him in ___ (plan 
to stab him) - patient says he would likely harm the man if he 
saw him again, and is likely to see him again once he relocates 
back to ___ ("it's a small town"). The second is his 
stepfather, who he feels is emotionally abusive and controlling.
He does not wish to share his plan for his stepfather. 
. 
PSYCHIATRIC REVIEW OF SYSTEMS:
Depression: Endorses depressed mood, thoughts of death/SI, sleep 
disturbance including insomnia, decreased appetite with weight 
loss (133 -> 120lb), memory loss, poor concentration.
Denies symptoms of  fatigue/loss of energy, anhedonia.
Anxiety: Endorses symptoms of anxiety such as worry, rumination, 
intrusive thoughts; mainly related to distress from hearing 
thoughts; endorses hypervigilance, nightmares, avoidance. Denies 
phobias, panic.
Mania: Endorses symptoms of mania such as distractibility, 
impulsive spending, hypersexuality, grandiosity (plans to move 
to ___, decreased need for sleep, or talkativeness/pressured 
speech. Denies erratic/risky behavior.
Psychosis: Endorses symptoms of psychosis such as auditory or 
hallucinations, paranoia (people mugging him), thought 
broadcasting to 1 man, hearing the thoughts of others. 
.
Collateral: Mother, ___ ___. Mother reports that 
patient has had hallucinations for a couple of weeks, but 
possibly throughout college. He has been "hearing people's 
thoughts" and feels he is "seeing things" and "telepathic." She 
believes he is on the cusp of reality and psychosis, and is 
concerned that he has been depressed and has notably lost 
weight.
Last week she looked into her insurance/mental health benefits 
and found a list of providers but son never followed up. Then he 
called her at a train station 2 days ago and she was worried for 
his physical safety after her son disclosed that his voices get 
___ stronger while using marijuana and "scare him", talking 
about a "noose around his neck." She called ___ psychiatrists,
received 5 call-backs with weeks-long waits. He has not been 
sleeping in 2 days, with decreased appetite for lost weight. She 
is concerned he may have a psychotic break and could hurt 
himself or others; she has 2 uncles with schizophrenia and 
recognized similar symptoms in her son. She endorses periods 
when her son in ___ in his room and other periods when 
"all over the place" "in my face" talking about getting rich and 
moving to ___. Mother worries that a break-up could "tip him 
over." She noticed today that patient has scars on arms/legs; 
denies prior knowledge of SIB."

Course in Emergency Department (including behavior, medications 
given):
-Patient was observed in good behavioral control.
-He received the following medications: ___ 15:58 TD 
Nicotine Patch 14 mg 

On admission to the unit, patient confirms that he has been 
hearing voices since ___.  States that since then, he also 
can hear what others think about him on the train and has a 
unique ability to sense other people's energy. "When I read 
social media posts, I know what they're saying but also can 
sense how they feel."  He reports that his symptoms become more 
intense
when he smokes marijuana, which he does every ___ days. The 
voices tell him not to tell anyone, because he thinks he may be 
reaching a truth that no one wants him to understand, "maybe 
I've unlocked my subconscious."  Asked this interviewer, "What 
is the cause of the uncertainty principle? What is wave particle 
duality? What is action at a distance?"  When I asked what 
motivated these questions, he stated they're from a website 
explaining that schizophrenia is actually the ___ dimension, and 
asks how can psychiatrists treat "mental illness" if they're 
living in the ___ dimension?  When asked if his new
consciousness/sensations seem to have a negative or positive 
impact on his life, he states "it's yin and ___ but states 
that he wants a diagnosis and medications to have better control 
over the voices. He denies SI and HI, saying he last had SI last 
week.

 
Past Medical History:
Past psychiatric history:
Hospitalizations: 1 two week inpatient stay in rehab for 
benzodiazepine use disorder
Past diagnoses: Benzodiazepine use disorder
Medication and ECT trials: None
Current treaters and treatment: None
Suicide attempts: 1 prior attempt in ___, after a
breakup, impulsive overdose with 20 aspirin. Discharged from ED,
never told anyone. Denies other attempts. 
Self-injury: Cutting from age ___. Stopped last ___.
Trauma: Emotional abuse by stepfather. States controlling,
confined him to the house, isolated him from friends, yelled at
him.
Harm to others: Denies
Access to weapons: Has a knife. Denies access to guns. 
.
Substance use history:
Caffeine: 1 cup of coffee on work days
Tobacco: ___ cigarettes/day since age ___.
Alcohol: Denies / Denies history of blackouts, alcohol 
withdrawal, DTs, seizures.
Marijuana: Daily use for ___ years, $60-80/week. First use, age
___. Last use 3 days ago.
Heroin: Denies
Opiates: Percocet in past.
Benzos: Xanax in past, ___ rehab for benzodiazepine use 
disorder
Cocaine: Denies
Amphetamines/speed: Adderall in past.
LSD/PCP: ___: First use last week.
.
Past medical history:
Hx asthma
Skin graft on palm ___ burn sustained in childhood accident
Denies history of head trauma, seizures.
 
Social History:
Born/Raised: Born in ___, raised from age ___ in ___.
Parents divorced at age ___ (dad in ___, mom in ___). 4 half 
siblings ___ younger, 1 older); not close. 
Relationship status/Children: Girlfriend - long-distance in ___ 
for past ___ years, met online; last visited ___ month.
Primary Supports: Mother, 
___: Lives with father and grandmother in ___. 
Friends in ___ are "dysfunctional, self-destructive," use 
drugs and break laws. No friends in ___.  
Education: Graduated high school with passing grades. Completed 
3 semesters of college at ___; C's and F's, 
passing 2 classes per semester. Felt school was "bad" because he 
wasn't ready for college, attended class, but didn't do his 
work.
Bullied in elementary school/middle school; bullied other kids 
later on. Denied friends in college; ___ relate. 
Employment/Income: ___ work in ___. 
Spiritual: Denies
Legal Problems: Denies
 
Family History:
Father is alcoholic
Two uncles with schizophrenia
 
Physical Exam:
Physical Examination:
VS:  BP 123/69 P73 RR17 O2%100  

Skin- s/p skin graft right hand
HEENT- normocephalic atraumatic, oropharynx clear
Lungs- CTAB, no wheezing
CV- slow rate, regular rhythm
Abdomen: nondistended
Extremities- moves all 4 spontaneously
Neuro-
CN: 
      pupils symmetry and responsiveness to light and 
accommodation: pupils symmetric and responsive to light
     visual fields: denies visual deficits
     EOM: intact
     facial sensation to light touch in all 3 divisions: intact
     facial symmetry on eye closure and smile: intact and no 
asymmetry
     hearing bilaterally to rubbing fingers: intact
     phonation: normal
     head turning and shoulder shrug: normal bilaterally
     tongue: midline, no atrophy
Motor:
       Delt:C5  Bic:C6   Tri:C7   Wr ext:C6   Fing ext:C7
Left    ___     ___        ___     ___          ___      
Right   ___     ___        ___     ___          ___      
        IP:   Quad:    Hamst:   Dorsiflex:   ___:   Pl.flex
Left   ___     ___        ___     ___               ___  
Right  ___     ___        ___     ___               ___   
Coordination:
     Finger-nose-finger-- intact with no dysmetria
Gait/Romberg: normal stride and arm swing
 
Pertinent Results:
WBC-7.5 
RBC-4.66 
Hgb-14.8 
Hct-43.1 
MCV-93 
MCH-31.8 
MCHC-34.3 
RDW-11.9 
RDWSD-40.2 
Plt ___
Neuts-57.9 
Lymphs-29.8 
Monos-7.9 
Eos-3.5 
Baso-0.8 
Im ___ 
AbsNeut-4.35 
AbsLymp-2.24 
AbsMono-0.59 
AbsEos-0.26 AbsBaso-0.06
Glucose-95 
UreaN-17 
Creat-0.9 
Na-142 
K-4.2 
Cl-105 
HCO3-22 
AnGap-15
ALT-25 
AST-21 
AlkPhos-79 
TotBili-0.8
Cholest-100
Albumin-5.0
%HbA1c-5.1 
Triglyc-166* 
HDL-57 
CHOL/HD-1.8 
LDLcalc-10
TSH-0.87
ASA-NEG 
Ethanol-NEG 
Acetmnp-NEG 
Tricycl-NEG

 
Brief Hospital Course:
This is a ___ single male with a history of substance 
abuse s/p one ___ rehab hospitalization for benzodiazepine 
use disorder who presented with ___ weeks of worsening auditory 
hallucinations and a plan to hang himself in the setting of 
ongoing cannabis use.
.
The patient's presentation is notable for auditory 
hallucinations that get "louder and meaner" in the setting of 
marijuana use, particularly after a period of abstinence. Per 
reports from his mother the patient has also had a period of not 
eating and not sleeping and has recently lost 20 pounds. The 
patient's history is notable for substance abuse including 
marijuana, Xanax, and Adderall and a family history of 
schizophrenia (2 uncles) and alcoholism (father). Of note, the 
patient was naïve to psychiatric medication when he was admitted 
and his toxicology screen was negative.
.
#. Legal/Safety: Patient was admitted to ___ on ___ ___. On admission he signed a CV, which was accepted. He 
maintained his safety throughout his hospitalization on 15 
minute checks and did not require physical or chemical restrains 
during his hospitalization.
.
#. Psychosis
-Patient was encouraged to attend groups and participate in a 
supportive milieu.
-On admission the patient was started on Risperidone 1 mg PO 
daily, which was titrated up to 2 mg PO daily. The patient 
reported that on this medication he felt "more balanced, calmer, 
more in control."
-The patient prescribed benztropine 0.5 mg PO bid to combat 
potential extrapyramidal side effects since the patient is a 
young, anti-psychotic-naïve non-Caucasian male. However, no 
signs or symptoms of EPS during this hospitalization. 
-In the setting of taking risperidone, the patient reported that 
the voices had improved, that he felt less anxious. He was 
pleasant and cooperative with staff and other patients.
-Throughout his admission, the patient denied visual 
hallucinations, SI, or HI. The patient continued to endorse 
occasionally hearing other people's thoughts about him.
-Throughout his hospitalization, the treatment team obtained 
collateral from patient's family (mother and grandmother). The 
patient's mother saw him in person the night before discharge 
and affirmed that she felt comfortable with his discharge. 
.
#. Substance use disorders
-The patient was counseled extensively on the importance of not 
smoking marijuana in order to reduce his psychotic symptoms. The 
patient was told he should never smoked marijuana given his 
family history of schizophrenia and his propensity for 
psychosis.
-The patient was given hydroxyzine 25 mg PO Q6H: PRN for anxiety 
and insomnia, which was discontinued prior to discharge as he 
had not been requiring. Given the patient's history of 
benzodiazepine abuse (taking other people's prescriptions), 
benzodiazepine medications were not used.
-The patient was given nicotine patches 14 mg DAILY:PRN for 
nicotine cravings.
.
#. Medical: No active acute or chronic medical issues
-The patient's EKG showed an ectopic atrial beat.
-The patient will follow up with his primary care doctor for 
this finding.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Benztropine Mesylate 0.5 mg PO BID:PRN Stiffness 
RX *benztropine 0.5 mg 1 tablet(s) by mouth BID:PRN Disp #*30 
Tablet Refills:*0 
2.  Nicotine Patch 14 mg TD DAILY:PRN craving 
RX *nicotine 14 mg/24 hour  DAILY Disp #*14 Patch Refills:*0 
3.  RisperiDONE 1 mg PO BID 
RX *risperidone [Risperdal] 1 mg 1 tablet(s) by mouth twice a 
day Disp #*30 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Substance-induced psychosis
Cannabis Use Disorder

 
Discharge Condition:
Vitals: Temp 98.2 BP 147/88 HR 75 RR 16 O2 Sat 98% on RA

MSE:
Appearance: Thin young ___ male. Well groomed with
braided hair. Wearing a long sleeved hooded white sweatshirt 
with
a the hood on it. Skin graft visible on palm.
Behavior: Cooperative. Good eye contact.
Speech: Fluent ___. Rate is slightly fast. Voluble but not
pressured.
Mood: 'Good. Excited about going home.'
Affect: Euthymic. Smiles and laughs appropriately. 
Thought content: Denies HI, SI, visual hallucinations. Endorses 
occasionally hearing the thoughts of others.
Thought process: Linear, future-oriented.
Cognition: Awake, alert.
Insight: Improved. Seems to understand the risks of continued 
marijuana use and the benefits of taking his medication. Plan to 
switch antipsychotics in the future to address side effects.
Judgment: Improved. Resolved to continue taking his mediation 
and staying away form marijuana in order to accomplish future 
goals. Compliant with medication.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___